US07282586B1
To a flask was added a mixture of 6 g [1,10]phenanthroline-2-carbonitrile, 3.1 g NH4Cl, 3.8 g NaN3, 0.01 g LiCl and 60 ml DMF, and the mixture was then heated to 120-130° C. and stirred overnight. After completion of reaction, the reaction mixture was cooled to room temperature, filtered to remove solids, and vacuum distallated to remove DMF, and then 300 ml water was added. Next, HCl(aq) was added to adjust pH value to about 4, and stirred for 30 minutes. Finally, the solution was filtered to give solids, and then the solids were washed by water and dried to obtain products 2-(1H-tetrazol-5-yl)-[1,10]phenanthroline 6.1 g. (yield=84.0%).

reactant | [1,10]phenanthroline-2-carbonitrile | 6 g | N1=C(C=CC2=CC=C3C=CC=NC3=C12)C#N | C13H7N3
reactant | NH4Cl | 3.1 g | [NH4+].[Cl-]
reactant | NaN3 | 3.8 g | [N-]=[N+]=[N-].[Na+]
catalyst | LiCl | 0.01 g | [Li+].[Cl-]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 2-(1H-tetrazol-5-yl)-[1,10]phenanthroline | 6.1 g, yield=84.0% | N1N=NN=C1C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C13H8N6
